US07361671B2
In a teflon screwcap glass pressure vessel a solution of 5-cyanomethyl-2,6-dimethyl-pyridin-3-yl-acetonitrile (1.5 g, 8.1 mmol), 2-amino-3,4,6-trifluoro-benzenethiol hydrochloride (2.6 g, 12.2 mmol), 2,6-di-tert-butyl-4-methylphenol (BHT) (20 mg) and acetic acid (0.56 mL, 9.8 mmol) in 2,2,2-trifluoroethanol (10 mL, 0.8 M, degassed with nitrogen) is warmed to 90° C. and stirred overnight. The mixture is cooled to room temperature, added to saturated aq sodium bicarbonate (30 mL), extracted with ethyl acetate (2×30 mL) and dried over sodium sulfate. Purification by medium-pressure liquid chromatography (MPLC) on silica (10-90% ethyl acetate in heptane) afford 2,6-dimethyl-5-(4,5,7-trifluorobenzothiazole-2-yl-methyl)-pyridin-3-yl-acetonitrile as a white solid (1.1 g, 38%); Rf 0.37 (20% ethyl acetate in heptane); 1H NMR (DMSO-d6, 300 MHz) δ 7.71 (ddd, J=10.3, 8.5, 5.4 Hz, 1H), 7.67 (s, 1 H), 4.61 (s, 2 H), 4.03 (s, 2 H), 2.44 (s, 3 H), 2.43 (s, 3 H). ESI-LCMS m/z calcd for C17H12F3N3S: 347.1; found 348.0 (M+1)+.

reactant | 5-cyanomethyl-2,6-dimethyl-pyridin-3-yl-acetonitrile | 8.1 mmol, 1.5 g | C(#N)CC=1C=C(C(=NC1C)C)CC#N | C11H11N3
reactant | 2-amino-3,4,6-trifluoro-benzenethiol hydrochloride | 12.2 mmol, 2.6 g | Cl.NC1=C(C(=CC(=C1F)F)F)S
reactant | acetic acid | 9.8 mmol, 0.56 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | 2,2,2-trifluoroethanol | 0.8 M, 10 mL | FC(CO)(F)F | C2H3F3O
catalyst | 2,6-di-tert-butyl-4-methylphenol | 20 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
product | 2,6-dimethyl-5-(4,5,7-trifluorobenzothiazole-2-yl-methyl)-pyridin-3-yl-acetonitrile | 1.1 g, 38% | CC1=NC(=C(C=C1CC#N)CC=1SC2=C(N1)C(=C(C=C2F)F)F)C | C17H12F3N3S
